US04238488
Triethylamine (2.2 g.) and 2-chlorobenzyl chloride (1.63 g.) were added to a solution of methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride (1.63 g.) in methanol (10 ml.). The solution obtained was kept for 24 hours at 20°-25° C. and then evaporated. Water (20 ml.) and 10% w/v sodium carbonate solution were then added to the residue to give a mixture of pH 10. This mixture was extracted with ether (2×20 ml.). The combined extracts were washed with water, dried (MgSO4) and evaporated. The residual oil was dissolved in acetone to give a solution which was treated with a slight excess of ethereal hydrogen chloride. The solid which precipitated was collected by filtration and washed with acetone to give methyl 1-(2-chlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride (1.5 g.) m.p. 171°-175° C.

reactant | Triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzyl chloride | 1.63 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | 1.63 g | Cl.N1CC(=CCC1)C(=O)OC
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | methyl 1-(2-chlorobenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | 1.5 g | Cl.ClC1=C(CN2CC(=CCC2)C(=O)OC)C=CC=C1 | InChI=1S/C14H16ClNO2.ClH/c1-18-14(17)12-6-4-8-16(10-12)9-11-5-2-3-7-13(11)15;/h2-3,5-7H,4,8-10H2,1H3;1H
